US04028344
Preparation of 1,1'-Azobis [1-(phenylhydrazinocarbonylamino)cyclohexane]
To a stirred solution of 4.52 grams (.041 moles) of phenylhydrazine in 25 ml of pentane in a 125 ml erlenmeyer flask cooled in an ice bath was slowly added a solution of 5.77 grams (.0205 moles) of 1,1'-azobis (1-isocyanatocyclohexane) (from Example XCI) in 25 ml of pentane. After the addition was complete, the reaction was stirred an additional 90 minutes at 0° to 5° C. and filtered. The filter cake was washed with cold pentane and air dried. The dry white powder weighed 5.7 grams (57% crude yield) and melted at 148°-151° C. with decomposition. The infrared spectrum of the product contained a strong broad carbonyl band at 1670-1700 cm-1 and NH peaks at 3200-3340 cm-1. The isocyanate band of the starting material at 2225 cm-1 was absent.

reactant | phenylhydrazine | .041 moles, 4.52 grams | C1(=CC=CC=C1)NN | C6H8N2
reactant | 1,1'-azobis (1-isocyanatocyclohexane) | .0205 moles, 5.77 grams | N(=NC1(CCCCC1)N=C=O)C1(CCCCC1)N=C=O | C14H20N4O2
solvent | pentane | 25 ml | CCCCC | C5H12
solvent | pentane | 25 ml | CCCCC | C5H12
product | 1,1'-Azobis [1-(phenylhydrazinocarbonylamino)cyclohexane] | N(=NC1(CCCCC1)NC(=O)NNC1=CC=CC=C1)C1(CCCCC1)NC(=O)NNC1=CC=CC=C1 | C26H36N8O2
